US04539149
Thionyl chloride (0.87 g, 7.3 mmol) was added to a suspension of 2-[(aminocarbonyl)amino]-2-(thien-2-yl)acetic acid (0.60 g, 3 mmol) in dry acetonitrile (17 ml) at 0°-5° C. under a nitrogen atmosphere. After 5 minutes dry ether (29 ml) was added and the resulting slurry was stirred for 10 minutes. The precipitate was then filtered under nitrogen, and washed well with ether. The product was dried in vacuo to afford 2-amino-4-(thien-2-yl)-4H-oxazol-5-one hydrochloride (0.60 g, 92%) as a salmon pink powder; νmax (Nujol) 1878, 1745, 1725 cm-1.

reactant | Thionyl chloride | 7.3 mmol, 0.87 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[(aminocarbonyl)amino]-2-(thien-2-yl)acetic acid | 3 mmol, 0.60 g | NC(=O)NC(C(=O)O)C=1SC=CC1 | C7H8N2O3S
reactant | ether | 29 ml | CCOCC | C4H10O
solvent | acetonitrile | 17 ml | C(C)#N | C2H3N
product | 2-amino-4-(thien-2-yl)-4H-oxazol-5-one hydrochloride | 0.60 g, 92% | Cl.NC=1OC(C(N1)C=1SC=CC1)=O | InChI=1S/C7H6N2O2S.ClH/c8-7-9-5(6(10)11-7)4-2-1-3-12-4;/h1-3,5H,(H2,8,9);1H
